US08426604B2
5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(5-methoxymethyl-1-methyl-pyrrolidin-3-yl)-methyl-amino]-thiazol-4-one was prepared from 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazol-4-one and (5-Methoxymethyl-1-methyl-pyrrolidin-3-yl)-methyl-amine following General Procedure C.

reactant | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazol-4-one | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)SCC)=O)C=CC(=C1)C(F)(F)F)(F)F | C22H15F6N3OS2
reactant | (5-Methoxymethyl-1-methyl-pyrrolidin-3-yl)-methyl-amine | COCC1CC(CN1C)NC | C8H18N2O
product | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(5-methoxymethyl-1-methyl-pyrrolidin-3-yl)-methyl-amino]-thiazol-4-one | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C)C2CN(C(C2)COC)C)=O)C=CC(=C1)C(F)(F)F)(F)F | C28H27F6N5O2S
